.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' sf

.subckt strongarm_comparator VDD VSS INP INN CLK OUTP OUTN
XM1 TAIL CLK  VSS VSS nfet_03v3 L=0.6u W=5.324u nf=4
XM2 D1   INP  TAIL VSS nfet_03v3 L=0.6u W=3.993u nf=3
XM3 D2   INN  TAIL VSS nfet_03v3 L=0.6u W=3.993u nf=3
XM4 OUTN OUTP D1   VSS nfet_03v3 L=0.6u W=6.655u nf=5
XM5 OUTP OUTN D2   VSS nfet_03v3 L=0.6u W=6.655u nf=5
XM6 OUTN OUTP VDD  VDD pfet_03v3 L=0.6u W=3.993u nf=3
XM7 OUTP OUTN VDD  VDD pfet_03v3 L=0.6u W=3.993u nf=3
XM8 OUTN CLK  VDD  VDD pfet_03v3 L=0.6u W=3.993u nf=3
XM9 OUTP CLK  VDD  VDD pfet_03v3 L=0.6u W=3.993u nf=3
XM10 D1  CLK  VDD  VDD pfet_03v3 L=0.6u W=3.993u nf=3
XM11 D2  CLK  VDD  VDD pfet_03v3 L=0.6u W=3.993u nf=3
.ends strongarm_comparator

Vsupply0 VDD 0 3.0
Vsupply1 VSS 0 0.0
Vsrc0 INP 0 DC 1.6524999999999999
Vsrc1 INN 0 DC 1.6475
Vsrc2 CLK 0 PULSE(0 3.0 10n 50p 50p 40n 100n)
C_load_OUTP OUTP 0 20f
C_load_OUTN OUTN 0 20f
Xdut VDD VSS INP INN CLK OUTP OUTN strongarm_comparator

.temp -40
.control
tran 20p 120n
wrdata tran.dat v(OUTP) v(OUTN)
meas tran avg_current AVG i(Vsupply0) from=10n to=110n
.endc
.end
